Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
___ paracentesis ___ with cytology

 
History of Present Illness:
 Ms. ___ is a ___ woman with history of papillary
thyroid carcinoma s/p resection/XRT, anxiety/depression who
presents with abdominal pain.

The patient reports that she recently saw a dermatologist
regarding hair loss and was found to have a low ferritin so was
started on iron supplementation. She noticed that since then she
has had more abdominal distention, bloating, and constipation.
Her last bowel movement was about 4 days prior to admission. She
notes that her stools have been dark since beginning the iron
supplement but no melena or hematochezia. 

She reports that on the day prior to admission she developed
severe, diffuse abdominal pain without radiation associated with
nausea. She denies any emesis. No fevers or chills. She reports
that she has gained about 10 pounds in the last two weeks. 

The patient presented to BID-N, where her Tmax was 101. Labs
notable for WBC 13->9.5, Hb 11, BMP, LFTs wnl. Imaging notable
for CT A/P that showed large-volume ascites with soft tissue 
mass
in the left pelvis concerning for possible peritoneal
mass/metastasis. CT also showed slightly prominent CBD with main
pancreatic duct at upper limit of normal, for which MRCP was
recommended. The patient was given IVF, morphine, Zofran, and
Zosyn and transferred to ___ for further management.

In the ED, vitals: 98.1 80 99/61 13 100% RA 
Exam: Abd: diffuse abd tenderness with more intense RUQ
tenderness
Labs notable for: WBC 9.5, Hb 11, plt 149; LFTs wnl; lactate 0.8
Imaging: MRCP
Consults: OB/Gyn
Patient given: Nothing

On arrival to the floor, the patient reports that she continues
to have diffuse abdominal pain but it is improved from prior. 
She
denies any nausea at present. No other complaints.

ROS: Pertinent positives and negatives as noted in the HPI. All
other systems were reviewed and are negative. 

PAST MEDICAL/SURGICAL HISTORY:
- Papillary thyroid cancer s/p XRT/resection (___)
- ASCUS pap smear s/p LEEP
- Anxiety/depression
- Anemia

SOCIAL HISTORY: ___
FAMILY HISTORY: No known family history of malignancy.

EXAM
VITALS: 98.1 106/70 70 16 97 RA 
GENERAL: Alert and uncomfortable appearing
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, diffusely tender to palpation
with voluntary guarding. Bowel sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect
 
Past Medical History:
See HPI
 
Social History:
___
Family History:
See HPI
 
Physical Exam:
DISCHARGE: 
=========
Temp: 97.8 PO BP: 125/80 HR: 68 RR: 18 O2 sat: 99%
O2 delivery: Ra 

GENERAL: Alert and uncomfortable appearing
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, diffusely tender to palpation
with voluntary guarding. Bowel sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect
 
Pertinent Results:
ADMISSION/SIGNIFICANT LABS: 
==========================

___ 06:16AM BLOOD WBC-5.9 RBC-3.00* Hgb-10.2* Hct-30.3* 
MCV-101* MCH-34.0* MCHC-33.7 RDW-12.5 RDWSD-46.8* Plt ___
___ 06:16AM BLOOD Glucose-70 UreaN-13 Creat-0.7 Na-143 
K-3.6 Cl-108 HCO3-24 AnGap-11
___ 02:06PM BLOOD CEA-1.0 CA125-1342*

MICRO:
=====
___ 2:19 pm PERITONEAL FLUID      PERITONEAL FLUID. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

IMAGING/OTHER STUDIES: 
======================

- RUQUS (___): 
IMPRESSION: 
- Moderate volume ascites
- Slight prominence of the common bile duct measuring 7 mm. 
Consider MRCP for further evaluation.
- 4 mm gallbladder polyp
- Calcifications seen in left hepatic lobe on CT scan earlier
today, possibly from prior granulomatous disease, is not
well seen by ultrasound

CT A/P with contrast (___):
IMPRESSION: 
1. Large volume ascites. Indeterminate 5.1 apparent soft tissue
density within the left pelvis anteriorly concerning for 
possible
peritoneal mass/metastasis. Abutting fluid collection versus
slightly tethered small bowel loop inferiorly and to the right.
Less likely, the differential for this masslike appearance could
be an area of collapsed bowel. Consider repeating the CT with
oral contrast.

2. Slightly prominent common bile duct with main pancreatic duct
upper limits of normal. Consider MRCP for further
evaluation.

3. Colonic diverticulosis without acute diverticulitis, although
assessment is limited by the large volume ascites.
Appendix not visualized.

4. Punctate and chunky calcifications within the left hepatic
lobe and spleen delete, nonspecific, but could be
sequela of prior infection including granulomatous disease.

- MRCP (___):
IMPRESSION:  
1. Mild prominence of the bile ducts in the left hepatic lobe,
common bile duct and pancreatic duct without evidence of
obstructing mass or stone. If further evaluation is desired, 
ERCP
may be performed. 

2. Progressively enhancing 2.2 cm lesion in the left hepatic 
lobe
is nonspecific, but thought most likely to represent a benign
entity such as an FNH. 
  
LABS AT DISCHARGE: 
=================

___ 07:58AM BLOOD WBC-3.7* RBC-3.24* Hgb-11.0* Hct-32.8* 
MCV-101* MCH-34.0* MCHC-33.5 RDW-12.4 RDWSD-46.7* Plt ___
___ 07:58AM BLOOD Glucose-89 UreaN-16 Creat-0.7 Na-145 
K-4.1 Cl-107 HCO3-28 AnGap-10

Pathology pending from ___ peritoneal fluid on discharge
 
Brief Hospital Course:
Ms. ___ is a ___ woman with history of papillary 
thyroid carcinoma, anemia, anxiety/depression who presents with 
abdominal pain, found to have pelvic mass and elevated CA125 
concerning for gynecologic malignancy.

 # Abdominal pain: 
Patient presenting with abdominal pain, bloating and distention, 
found on outside imaging to have pelvic mass and CA 125 elevated 
concerning for gynecologic malignancy. Given very high CA 125: 
CEA ratio, suspect primary ovarian malignancy. Pain likely 
secondary to malignancy, ascites, and constipation. Patient 
aware of suspected diagnosis. CT chest without obvious 
intrathoracic metastasis. Patient underwent paracentesis with 
cytology, which is pending on discharge. Results to be discussed 
at ___ follow up. Patient also with liver lesion on CT, not 
appreciated on ultrasound. She will need this lesion to be 
biopsied as an outpatient as this was unable to be performed 
over long holiday weekend. Discharged with prn oxycodone, 
antiemetics, and bowel regimen. 

CHRONIC/STABLE PROBLEMS: 
======================
# ADHD: - Continued Adderral
# Depression/Anxiety: - Continued lamotrigine, gabapentin
# Papillary thyroid cancer s/p resection: - Continued 
levothyroxine
# Insomnia: - Continued zolpidem as needed (dose reduced to max 
recommended dose for women)
# HSV: - Continued suppressive valacyclovir

TRANSITIONAL ISSUES: 
==================
[] peritoneal fluid cytology pending at discharge
[] will need outpatient liver biopsy for suspicious lesion

> 30 mins spent coordinating discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amphetamine-Dextroamphetamine XR 15 mg PO DAILY 
2. Ferrous Sulfate 325 mg PO DAILY 
3. Gabapentin 900 mg PO QHS 
4. LamoTRIgine 200 mg PO DAILY 
5. zolpidem 12.5 mg oral QHS:PRN Insomnia 
6. ValACYclovir 500 mg PO Q24H 
7. Levothyroxine Sodium 137 mcg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*30 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*120 Tablet Refills:*0 
4.  Amphetamine-Dextroamphetamine XR 15 mg PO DAILY  
5.  Ferrous Sulfate 325 mg PO DAILY  
6.  Gabapentin 900 mg PO QHS  
7.  LamoTRIgine 200 mg PO DAILY  
8.  Levothyroxine Sodium 137 mcg PO DAILY  
9.  ValACYclovir 500 mg PO Q24H  
10.  zolpidem 12.5 mg oral QHS:PRN Insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# pelvic mass (suspected metastatic gynecologic malignancy, 
pathology pending)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a privilege to care for you at the ___. You were 
admitted with abdominal pain and unfortunately had imaging that 
was concerning for an underlying cancer. You had biopsied taken 
for pathology and will have close follow up to discuss these 
results. 

You are being prescribed some medications to help with any 
symptoms you are experiencing. Please note that both of these 
medications can cause constipation so be sure to make sure you 
are on a stool softener. 

We wish you the best!

Sincerely, 
Your ___ Team 
 
Followup Instructions:
___